US04587250
(3R)-1,8-Dithia-4-azaspiro[4.5]decane-3-carboxylic acid
5.22 g of L-cysteine and 5 g of tetrahydrothiopyranone are suspended in 50 ml of toluene and the suspension is boiled, using a water separator, until the theoretical amount of water has been separated off. When the suspension is cooled, the product separates out as a light yellow precipitate, which is recrystallized from methanol/water to give 6.9 g of light yellow crystals of melting point 196° C.

reactant | L-cysteine | 5.22 g | N[C@@H](CS)C(=O)O | C3H7NO2S
reactant | tetrahydrothiopyranone | 5 g | S1(CCCCC1)=O | C5H10OS
reactant | water | O | H2O
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | (3R)-1,8-Dithia-4-azaspiro[4.5]decane-3-carboxylic acid | 6.9 g | S1C[C@H](NC12CCSCC2)C(=O)O | C8H13NO2S2
